US05648354
3-(Hydroxymethyl)-6-[[3-(N,N-dimethylamino)phenyloxy]methyl]-1,2-dithiin.
To a stirred solution of the 3-[(tert-butyldimethylsilyloxy)methyl]-6-[[3-(N,N-dimethylamino)-phenyloxy]methyl]-1,2-dithiin obtained above (100 mg, 0.24 mmol) in 2 mL THF was added a mixture of 2.4 mL of 1M tetrabutylammonium fluoride in THF and 1.4 mL of acetic acid. The reation mixture was stirred for 3 h until TLC analysis showed the reaction to be complete, then concentrated in vacuo. The residue was partitioned between 40 mL of water and 60 mL ethyl acetate. The organic phase was washed with dilute aqueous sodium bicarbonate, water, dried over sodium sulfate, and then evaporated to a small volume. The residue was chromatographed over silica gel column (ethyl acetate-hexane, 1:1) to yield 60.5 mg (84.0%) of the title compound. Further purification was accomplished by reverse-phase HPLC (PRP-1 column, acetonitrile-water, 2:3); 1H-NMR (CDCl3) δ7.3 (bs, 1 H), 7.1 (bs, 1 H), 6.64 (s, 1 H), 6.55 (d, J=7.2, 1 H), 6.46(d, J=5.6, 1 H), 6.41 (d, J=5.6, 1 H), 4.65 (s, 2 H), 4.30 (s, 2 H), 2.69 (s, 6 H).

reactant | 3-[(tert-butyldimethylsilyloxy)methyl]-6-[[3-(N,N-dimethylamino)-phenyloxy]methyl]-1,2-dithiin | [Si](C)(C)(C(C)(C)C)OCC=1SSC(=CC1)COC1=CC(=CC=C1)N(C)C | C20H31NO2S2Si
reactant | tetrabutylammonium fluoride | 1M, 2.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 1.4 mL | C(C)(=O)O | C2H4O2
product | 3-(Hydroxymethyl)-6-[[3-(N,N-dimethylamino)phenyloxy]methyl]-1,2-dithiin | 60.5 mg, 84.0% | OCC=1SSC(=CC1)COC1=CC(=CC=C1)N(C)C | C14H17NO2S2
